US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (10.0 g) as a starting compound, 3-(4-methoxybenzyl)-sulfonylpropyl chloride (8.50 g) and potassium carbonate (16.8 g) were reacted and purified in the same manner as in Example 199 to give 7.60 g of 4-amino-5-chloro-2-methoxy-N-((1-(3-(4-methoxybenzyl)-sulfonylpropyl)piperidin-4-yl)methyl)benzamide, m.p. 111°-112° C.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 10.0 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 3-(4-methoxybenzyl)-sulfonylpropyl chloride | 8.50 g | COC1=CC=C(CC(CCCl)=S(=O)=O)C=C1 | C11H13ClO3S
reactant | potassium carbonate | 16.8 g | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-5-chloro-2-methoxy-N-((1-(3-(4-methoxybenzyl)-sulfonylpropyl)piperidin-4-yl)methyl)benzamide | 7.60 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCC(CC2=CC=C(C=C2)OC)=S(=O)=O)C=C1Cl)OC | C25H32ClN3O5S
